US04678786
Hydrazine hydrate (2.8 ml) was added to a solution of 4-(2-allyloxyphenyl)-5-ethoxydihydro-2-furanone (9.8 g) in acetic acid (30 ml) and water (27 ml). The solution was refluxed for 90 minutes, poured into aqueous sodium bicarbonate, extracted into diethyl ether, evaporated under reduced pressure and the resultant solid recrystallised from benzene to afford 5-(2-allyloxyphenyl)-4,5-dihydro-3[2H]-pyridazinone (6.5 g) as white crystals, m.p. 93°-95° C.

reactant | Hydrazine hydrate | 2.8 ml | O.NN
reactant | 4-(2-allyloxyphenyl)-5-ethoxydihydro-2-furanone | 9.8 g | C(C=C)OC1=C(C=CC=C1)C1CC(OC1OCC)=O | C15H18O4
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
solvent | water | 27 ml | O | H2O
product | 5-(2-allyloxyphenyl)-4,5-dihydro-3[2H]-pyridazinone | 6.5 g | C(C=C)OC1=C(C=CC=C1)C1CC(NN=C1)=O | C13H14N2O2
